* source PROJECT_EMG
C_C4         N14435 LPF  140n  TC=0,0 
R_R10         HPF N14435  1.69k TC=0,0 
X_U3B         N14609 LPF VCC VEE LPF TL082
R_R11         N14435 N14609  2.67k TC=0,0 
V_V2         VEE 0 -9V
C_C3         0 N14609  100n  TC=0,0 
V_V1         VCC 0 9V
X_U7         N15282 N15300 VCC VEE INST N15300 N15223 N15247 AD620/AD
V_V3         N15282 N15300 DC 0Vdc AC 5m 
R_R13         N15223 N15247  2k TC=0,0 
X_U8B         INST N16630 VCC VEE HPF TL082
R_R14         0 N16630  1k TC=0,0 
R_RF1         N16630 HPF  10k TC=0,0 
